US04709050
3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-methyl-pyrrolidine-2,5-dione.
This compound is prepared by the procedure of Example 1 from 2.40 g (0.1 mol) of sodium hydride, 20.63 g (0.1 mol) of 2,6-di-tert-butylphenol, and 11.11 g (0.1 mol) of N-methylmaleimide in tert-butyl alcohol. The residue is recrystallized from petroleum ether to give 13.2 g (42%) of crude product. The analytical sample is prepared by flash chromatography (1:1 heptane:ethyl acetate eluent) followed by trituration with a mixture of heptane and toluene to give 3.0 g of a white solid: mp 164°-166° C.

reactant | sodium hydride | 0.1 mol, 2.40 g | [H-].[Na+]
reactant | 2,6-di-tert-butylphenol | 0.1 mol, 20.63 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | N-methylmaleimide | 0.1 mol, 11.11 g | CN1C(C=CC1=O)=O | C5H5NO2
solvent | tert-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | heptane | CCCCCCC | C7H16
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-1-methyl-pyrrolidine-2,5-dione | 3.0 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(N(C(C1)=O)C)=O | C19H27NO3
